US05112998
In 200 ml of tetrahydrofuran was dissolved 11.7 g of 20-(1,3-dioxolan-2-yl)-1α,2α-epoxypregna-4,6-dien-3-one, followed by addition of 36 ml of a 1.0M solution of diisobutylaluminum hydride in toluene under ice-cooling. The mixture was stirred under ice-cooling for minutes. Then, the reaction mixture was worked up in the same manner as Example 68 to recover 9.4 g of 20-(1,3-dioxolan-2-yl)-1α,2α-epoxypregna-4,6-dien-3α-ol (yield: 80%) showing the following physical properties.

reactant | 20-(1,3-dioxolan-2-yl)-1α,2α-epoxypregna-4,6-dien-3-one | 11.7 g | O1C(OCC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=CC4=CC([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O5)=O | C24H32O4
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 20-(1,3-dioxolan-2-yl)-1α,2α-epoxypregna-4,6-dien-3α-ol | 9.4 g, yield: 80% | O1C(OCC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=CC4=C[C@@H]([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O5)O | C24H34O4
